US04737302
With stirring, 18.63 (0.2 mole) of aniline are added to a suspension of 33.45 g (0.2 mole) of 2-mercaptobenzothiazole in 120 ml of ethanol, the temperature rising to 30° C. Then 16.4 g (0.2 mole) of 37% aqueous formaldehyde solution are added and stirring is continued for 30 minutes. The precipitate is isolated by filtration and washed with cold ethanol and hexane, affording 47 g of 3-(phenylaminomethyl)benzothiazoline-2-thione which melts at 102°-103° C.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 2-mercaptobenzothiazole | 0.2 mole, 33.45 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | formaldehyde | 0.2 mole, 16.4 g | C=O | CH2O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 3-(phenylaminomethyl)benzothiazoline-2-thione | 47 g | C1(=CC=CC=C1)NCN1C(SC2=C1C=CC=C2)=S | C14H12N2S2
